US05117027
86 g (1 mol) of methacrylic acid was neutralized, while stirring, with 280 g of a 25% solution of potassium methylate in methanol. Thereafter, 0.6 g of N,N'-diphenyl-p-phenylenediamine, 2.8 g (0.009 mol) of 1-(2'-ethylhexyl)-4-dimethylaminopyridinium chloride and 198.5 g (1 mol) of 3-chloropropyltrimethoxysilane were added while continuously stirring, and the methanol was distilled off. The reaction mixture was maintained at 125° C. for 1.5 hours and, after cooling, it was separated from the precipitated potassium chloride by filtration. The potassium chloride was washed with methanol. The methanol was evaporated from the combined filtrates, and the residue was distilled under reduced pressure. 230 g of 3-methacryloxypropyltrimethoxysilane having a boiling of 82° C. (0.4 mbar) were obtained, which corresponds to a yield of 92.7% of theory, based on the amount of methacrylic acid used. The purity of the product was 98.5%. In the gas chromatogram only traces of 4-dimethylaminopyridine and 0.01% of 2-ethylhexyl methacrylate were detectable.

reactant | methacrylic acid | 1 mol, 86 g | C(C(=C)C)(=O)O | C4H6O2
reactant | potassium methylate | C[O-].[K+]
reactant | 3-chloropropyltrimethoxysilane | 1 mol, 198.5 g | ClCCC[Si](OC)(OC)OC | C6H15ClO3Si
solvent | methanol | CO | CH4O
catalyst | N,N'-diphenyl-p-phenylenediamine | 0.6 g | C=1C=CC(=CC1)NC=2C=CC(=CC2)NC=3C=CC=CC3 | C18H16N2
catalyst | 1-(2'-ethylhexyl)-4-dimethylaminopyridinium chloride | 0.009 mol, 2.8 g | [Cl-].C(C)C(C[N+]1=CC=C(C=C1)N(C)C)CCCC
product | 3-methacryloxypropyltrimethoxysilane | 230 g, yield of 92.7% | C(C(=C)C)(=O)OCCC[Si](OC)(OC)OC | C10H20O5Si
